* Spice library implementing logic gates in analog multiplexer logic
* 2021-Nov-09  cpldcpu

* Supported gate types:
* BUF
* NOT
* AND2
* OR2
* XOR2
* DLATCH
* DFF

* Global nodes:
* VCC       positive supply
* VEE       negative supply

*****************
* 74LVC1G3157 Connections
*      1  = B2  (NO)
*      2  = GND
*      3  = B1  (NC)
*      4  = A
*      5  = VCC
*      6  = S
*****************

.SUBCKT am_NOT A Y
X1 VEE VEE VCC Y VCC A 74LVC1G3157
.ENDS 

.SUBCKT am_AND2 A B Y
X1 B VEE VEE   Y VCC A 74LVC1G3157
.ENDS 

.SUBCKT am_OR2 A B Y
X1 VCC VEE B Y VCC A 74LVC1G3157
.ENDS 

.SUBCKT am_XOR2 A B Y
X1 N001 VEE B Y VCC A 74LVC1G3157
X2 B N001 am_NOT
.ENDS 

.SUBCKT am_MUX2 A B S Y
X1 A VEE B Y VCC S 74LVC1G3157
.ENDS 

.SUBCKT am_LATCH E D Q
X1 D   VEE Q   N001 VCC E    74LVC1G3157
X2 VCC VEE GND Q    VCC N001 74LVC1G3157
.ENDS 

.SUBCKT am_DFF C D Q
X1 nC D t am_LATCH
X2 C t Q am_LATCH
X3 C nC am_NOT
.ENDS 

* for post layout simulation
.SUBCKT AMUX B1 B2 S A
X1 B2 GND B1 A VCC S 74LVC1G3157
.ENDS
